US08022223B2
Step B: Preparation of tert-butyl 4-(2-ethoxy-1-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)-2-oxoethyl)piperidine-1-carboxylate:
Placed methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate (2.20 g, 5.48 mmol), tert-butyl 4-(2,2,2-trichloro-1-hydroxyethyl)piperidine-1-carboxylate (1.86 g, 5.59 mmol), and sodium ethanolate (3.55 g, 10.9 mmol) in ethanol (75 mL) and stirred at ambient temperature for 4 hours. The reaction was quenched with sat NH4Cl and extracted with CH2Cl2. The organic phase was concentrated and purified by silica gel (10-25% EtOAc in hex) to give the title compound (2.63 g, 75.5% yield).

reactant | methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate | 5.48 mmol, 2.20 g | CC=1N=C(SC1)NC1=C(C=C(C=N1)SCCC(=O)OC)OC1=CC=CC=C1 | C19H19N3O3S2
reactant | tert-butyl 4-(2,2,2-trichloro-1-hydroxyethyl)piperidine-1-carboxylate | 5.59 mmol, 1.86 g | ClC(C(O)C1CCN(CC1)C(=O)OC(C)(C)C)(Cl)Cl | C12H20Cl3NO3
reactant | sodium ethanolate | 10.9 mmol, 3.55 g | C(C)[O-].[Na+]
reactant | ethanol | 75 mL | C(C)O | C2H6O
product | tert-butyl 4-(2-ethoxy-1-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)-2-oxoethyl)piperidine-1-carboxylate | 2.63 g, 75.5% yield | C(C)OC(C(SC=1C=NC(=C(C1)OC1=CC=CC=C1)NC=1SC=C(N1)C)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H36N4O5S2
